US04452851
To a solution of tert-butyl 2-methoxycarbonylmethoxyimino-3-oxobutyrate (syn isomer) (51.9 g) in glacial acetic acid (52 ml) was slowly added sulfuryl chloride (72.2 ml) at 40° C. with stirring. The reaction mixture was stirred at the same temperature for an hour. The resultant solution was concentrated under reduced pressure and the residual oil was dissolved in ethyl acetate (300 ml). The ethyl acetate layer was washed with 10% hydrochloric acid once and washed with a saturated aqueous solution of sodium chloride four times. The separated organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residual oil was diluted with n-hexane (100 ml) and evaporated under reduced pressure. The white crystalline precipitates were washed with diisopropyl ether (100 ml). The precipitates were collected by filtration, dried under reduced pressure to give crystalline 4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyric acid (syn isomer) (13.4 g), mp. 127° to 128.5° C.

reactant | tert-butyl 2-methoxycarbonylmethoxyimino-3-oxobutyrate | 51.9 g | COC(=O)CON=C(C(=O)OC(C)(C)C)C(C)=O | C11H17NO6
reactant | sulfuryl chloride | 72.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 52 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyric acid | 13.4 g | ClCC(C(C(=O)O)=NOCC(=O)OC)=O | C7H8ClNO6
